US09301951B2
Intermediate 4.11a: N-(2-morpholinoethyl)cyclopropanamine, hydrochloride salt
A solution of 100 mg of N-(2-chloroethyl)morpholine and 307 mg of cyclopropylamine in 5 mL of CH3CN was refluxed for 2 h. The mixture was cooled to 25° C. and treated with excess K2CO3. After stirring for 1 h the suspension was filtered and the solvent was evaporated. The residual solvent was removed at high vacuum and the residue was dissolved in a large excess of methanolic HCl. The solvent was evaporated to give 102 mg of the product.

reactant | N-(2-chloroethyl)morpholine | 100 mg | ClCCN1CCOCC1 | C6H12ClNO
reactant | cyclopropylamine | 307 mg | C1(CC1)N | C3H7N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | N-(2-morpholinoethyl)cyclopropanamine, hydrochloride salt | 102 mg | Cl.O1CCN(CC1)CCNC1CC1 | InChI=1S/C9H18N2O.ClH/c1-2-9(1)10-3-4-11-5-7-12-8-6-11;/h9-10H,1-8H2;1H
